US05026856
7.23 g of 2-benzyl-5-nitroisoindoline was dissolved into 100 ml of methanol and to the solution was added 1.5 g of 10% palladium on carbon. The mixture was stirred under a hydrogen gas stream under atmospheric pressure for 2 days at room temperature and another 5 days at 40° C. The catalyst was removed by filtration and the filtrate was concentrated. The residue was purified by vacuum distillation (bath temperature: 150°-180° C., pressure: 0.1 mmHg) to obtain 2.94 g of 5-aminoisoindoline.

reactant | 2-benzyl-5-nitroisoindoline | 7.23 g | C(C1=CC=CC=C1)N1CC2=CC=C(C=C2C1)[N+](=O)[O-] | C15H14N2O2
catalyst | palladium on carbon | 1.5 g | [Pd] | Pd
solvent | methanol | 100 ml | CO | CH4O
product | 5-aminoisoindoline | 2.94 g | NC=1C=C2CNCC2=CC1 | C8H10N2
